US07994185B2
Step A: 4-[4-(3-Amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine
In a microwave reaction vessel 3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluoroaniline (590 mg, 1.626 mmol) was combined with NH4OH 28-30% (15 mL, 385 mmol) and 1,4-dioxane (4 mL). The mixture was heated in the microwave for 40 min at 130° C. The crude product was then diluted with water (100 mL) followed by extraction with EtOAc (100 mL). The EtOAc layer was washed with brine then dried over Na2SO4. The organics were then filtered and concentrated to dryness. The crude material was dissolved in DCM (2 mL), injected onto the top of a silica gel column then purified using EtOAc and hexanes. Desired fractions were concentrated to dryness to yield the title compound of Step A as a beige powder (490 mg, 1.355 mmol, 83% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.06 (d, J=5.1 Hz, 1H), 6.97 (t, J=7.8 Hz, 1H), 6.86 (t, J=8.2 Hz, 1H), 6.71 (s, 2H), 6.58 (t, J=6.2 Hz, 1H), 6.15 (d, J=5.1 Hz, 1H), 5.26 (s, 2H), 1.42 (s, 9H).

reactant | 3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluoroaniline | 1.626 mmol, 590 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(N)C=CC1)F | C17H16ClFN4S
reactant | NH4OH | 385 mmol, 15 mL | [NH4+].[OH-]
reactant | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 4-[4-(3-Amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine | 1.355 mmol, 490 mg, 83% yield | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)N)C(C)(C)C)F | C17H18FN5S
